US06380134B1
Preparation of 2-(5-chloro-3-fluoropyridin-2-yl)-7-fluorotetrahydroimidazo-[1,5-a]-pyridine-1,3-dione
2.6 g of 2-(5-chloro-3-fluoro-pyridin-2-yl)-7-hydroxitetrahydroimidazo-[1,5-a]-pyridin-1,3-dione (isomer B, Example H10) in 80 ml dichloromethane is treated at −55° C. to −65° C. with 1.9 ml of diethylaminosulfur trifluoride (DAST) and stirred at the same temperature for 1 hour. The reaction mixture is then allowed to stir at 20° C. over night. The resulting brownish solution is treated with ice and water and extracted with ethyl acetate. The combined extracts are washed with water, dried, filtered through a small silicagel column and evaporated to give the desired product with m.p. 154-157° C.

reactant | 2-(5-chloro-3-fluoro-pyridin-2-yl)-7-hydroxitetrahydroimidazo-[1,5-a]-pyridin-1,3-dione | 2.6 g | ClC=1C=C(C(=NC1)N1C(N2C(CC(CC2)O)C1=O)=O)F | C12H11ClFN3O3
reactant | diethylaminosulfur trifluoride | 1.9 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2-(5-chloro-3-fluoropyridin-2-yl)-7-fluorotetrahydroimidazo-[1,5-a]-pyridine-1,3-dione | ClC=1C=C(C(=NC1)N1C(N2C(CC(CC2)F)C1=O)=O)F | C12H10ClF2N3O2
